US09062092B2
Compound 100d. 2-(1-Hydroxy-ethyl)-5,5-dimethyl-[1,4]dioxane-2-carboxylic acid benzyl ester
A solution of N,N-diisopropylamine (530 mg, 0.73 mL, 5.25 mmol) in anhydrous tetrahydrofuran (4 mL) was stirred at −78° C. under nitrogen. n-Butyl lithium (2.1 mL, 5.25 mmol, 2.5 M solution in hexane) was added dropwise and the reaction mixture was stirred at −78° C. for 30 min. A solution of 5,5-dimethyl-[1,4]dioxane-2-carboxylic acid benzyl ester (870 mg, 3.5 mmol) in tetrahydrofuran (8 mL) was added and the reaction mixture was stirred at −78° C. for 20 min. Acetaldehyde (462 mg, 0.6 mL, 10.5 mmol) was added in one portion. The cooling bath was removed and the reaction mixture was stirred at room temperature for 1 h. The reaction mixture was cooled to 0° C. and ice-cold hydrochloric acid (2 M) was added to acidify the reaction mixture to pH 2. Sodium chloride was added to saturate the aqueous phase and the mixture was extracted with diethyl ether. The organic extracts were combined and washed with brine. The organic solution was filtered through a hydrophobic frit and the filtrate was evaporated. The residue was purified by silica gel chromatography using a gradient of iso-hexanes/ethyl acetate 6:1 to 0:1 followed by silica gel chromatography using iso-hexanes/ethyl acetate 3:1 to 0:1 to the title compound (400 mg, 40%) as an oil and as a 2:1 mixture of diastereoisomers. LCMS (m/z) 295.1 [M+H], Tr=2.11 min.

reactant | N,N-diisopropylamine | 5.25 mmol, 0.73 mL, 530 mg | C(C)(C)NC(C)C | C6H15N
reactant | n-Butyl lithium | 5.25 mmol, 2.5 M, 2.1 mL | C(CCC)[Li]
reactant | 5,5-dimethyl-[1,4]dioxane-2-carboxylic acid benzyl ester | 3.5 mmol, 870 mg | C(C1=CC=CC=C1)OC(=O)C1OCC(OC1)(C)C | C14H18O4
reactant | Acetaldehyde | 10.5 mmol, 0.6 mL, 462 mg | C(C)=O | C2H4O
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
product | 2-(1-Hydroxy-ethyl)-5,5-dimethyl-[1,4]dioxane-2-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)C1(OCC(OC1)(C)C)C(C)O | C16H22O5
